US04341666
3-Methyl-tricyclo[6.2.1.02,7 ]undecan-3-ol
25 g (0.140 mole) of 3-methyl-tricyclo[6.2.1.02,7 ]undec-9-en-3-ol--see Example 1--in 150 ml of methanol were hydrogenated under atmospheric pressure and at room temperature in the presence of 2.5 g of 10% palladium on charcoal. After filtration, evaporation and distillation (b.p. 60°-65°/0.1 Torr), 24 g of a material containing ca. 90% of the desired compound according to vapor phase chromatographic analysis were isolated.

reactant | 3-methyl-tricyclo[6.2.1.02,7 ]undec-9-en-3-ol | 0.140 mole, 25 g | CC1(C2C3C=CC(C2CCC1)C3)O | C12H18O
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on charcoal | 2.5 g | [Pd] | Pd
product | 3-Methyl-tricyclo[6.2.1.02,7 ]undecan-3-ol | CC1(C2C3CCC(C2CCC1)C3)O | C12H20O
